US05814631
Synthesis of 7-chloro-3-(4-chloro-2-fluorobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione (Compound 134)
1.12 g (4.77 mmol) of 4-chloro-2-fluorobenzenesulfonylisocyanate and 819 mg (4.77 mmol) of 2-amino-4-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 742 mg of the above-identified compound (yield 40.0%). Properties: colorless crystal, Melting point: 267°-268° C., PMR (δppm, DMSO-d6):7.16 (1H,s), 7.24 (1H,d), 7.56 (1H,t), 7.73 (1H,d), 7.87 (1H,d), 8.10 (1H,t), 12.2 (1H,br).

reactant | 4-chloro-2-fluorobenzenesulfonylisocyanate | 4.77 mmol, 1.12 g | ClC1=CC(=C(C=C1)S(=O)(=O)N=C=O)F | C7H3ClFNO3S
reactant | 2-amino-4-chlorobenzoic acid | 4.77 mmol, 819 mg | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 7-chloro-3-(4-chloro-2-fluorobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione | 742 mg, yield 40.0% | ClC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C1=C(C=C(C=C1)Cl)F)=O | C14H7Cl2FN2O4S
